US06962914B2
To a cold (−78° C.) solution of 2-(4-fluorophenyl)-3-[2-(1-pyrrolidinyl)-4-pyrimidinyl]-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine (86 mg, 0.20 mmol) in tetrahydrofuran (5 mL) was added n-butyllithium (0.30 mL, 1.6 M in hexane, 0.48 mmol) dropwise. The dark solution was stirred for 3 minutes, and then carbon tetrachloride (1 mL) was added. After 15 minutes, the bath was removed and the solution allowed to warm to room temperature and stirred an additional 15 minutes. Water was added then ether. The organics were washed with brine, and the aqueous layer was extracted with ether. The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica (4:1 hexanes-ethyl acetate) to give 7-chloro-2-(4-fluorophenyl)-3-[2-(1-pyrrolidinyl)-4-pyrimidinyl]-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine (55 mg, 59%) as a solid. 1H NMR (CDCl3): δ 8.50 (d, 1 H), 8.11 (d, 1 H), 7.62 (dd, 2 H), 7.50 (d, 1 H), 7.11 (t, 2 H), 6.22 (d, 1 H), 3.62 (m, 4 H), 2.01 (m, 4 H); MS m/z 462 (M+1).

reactant | 2-(4-fluorophenyl)-3-[2-(1-pyrrolidinyl)-4-pyrimidinyl]-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine | 0.20 mmol, 86 mg | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C1=NC(=NC=C1)N1CCCC1 | C22H17F4N5
reactant | n-butyllithium | 0.48 mmol, 1.6 M, 0.30 mL | C(CCC)[Li]
reactant | carbon tetrachloride | 1 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 7-chloro-2-(4-fluorophenyl)-3-[2-(1-pyrrolidinyl)-4-pyrimidinyl]-6-(trifluoromethyl)pyrazolo[1,5-a]pyridine | 55 mg, 59% | ClC1=C(C=CC=2N1N=C(C2C2=NC(=NC=C2)N2CCCC2)C2=CC=C(C=C2)F)C(F)(F)F | C22H16ClF4N5
